US08461134B2
To a stirred solution of 4-(3-aminophenyl)butan-2-one (16.5 g, 0.1 mol) in DCM (50 mL) was added pyridine (11.9 g, 0.15 mol). TFAA (31.5 g, 0.15 mol) was added dropwise to the solution at 0° C. The reaction mixture was stirred at r.t. for 3 hrs, then water was added, the organic layer was separated and washed with brine, dried over Na2SO4, concentrated and purified by silica gel chromatography (petroleum ether:EtOAc=1:0 to 10:1) to give 2,2,2-trifluoro-N-(3-(3-oxobutyl)phenyl)acetamide (21.3 g, 81% yield) as a yellow solid. 1H NMR: (400 MHz, CDCl3) δ 8.26 (s, 1H), 7.43 (t, 1H), 7.39 (d, 1H), 7.22 (t, 1H), 7.05 (d, 1H), 2.90-2.86 (m, 2H), 2.79-2.73 (m, 2H), 2.12 (s, 3H).

reactant | 4-(3-aminophenyl)butan-2-one | 0.1 mol, 16.5 g | NC=1C=C(C=CC1)CCC(C)=O | C10H13NO
reactant | pyridine | 0.15 mol, 11.9 g | N1=CC=CC=C1 | C5H5N
reactant | TFAA | 0.15 mol, 31.5 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(3-(3-oxobutyl)phenyl)acetamide | 21.3 g, 81% yield | FC(C(=O)NC1=CC(=CC=C1)CCC(C)=O)(F)F | C12H12F3NO2
